US08357679B2
A: (R)-tert-Butyl 3-(3-(4-(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazine-1-carbonyl)-2-fluorophenyl)ureido)pyrrolidine-1-carboxylate
A solution of (4-amino-3-fluorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazin-1-yl)methanone (0.674 mmol, 400 mg) and 4-nitrophenyl carbonochloridate (0.674 mmol, 136 mg) in dichloromethane (10 mL) was stirred at room temperature for 30 minutes. (R)-tert-Butyl 3-aminopyrrolidine-1-carboxylate (2.021 mmol, 0.353 mL, 376 mg) was added and the reaction stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (10 mL) and washed with saturated aqueous sodium hydrogen carbonate solution (10 mL). The organic phase was concentrated and the resulting residue was purified by column chromatography on silica gel (eluting with dichloromethane—5% methanol/95% dichloromethane gradient) to afford the title compound (300 mg).

reactant | (4-amino-3-fluorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.674 mmol, 400 mg | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](C)(C)C(C)(C)C)F | C27H34F7N3O2Si
reactant | 4-nitrophenyl carbonochloridate | 0.674 mmol, 136 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | (R)-tert-Butyl 3-aminopyrrolidine-1-carboxylate | 2.021 mmol, 0.353 mL, 376 mg | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-tert-Butyl 3-(3-(4-(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazine-1-carbonyl)-2-fluorophenyl)ureido)pyrrolidine-1-carboxylate | 300 mg | [Si](C)(C)(C(C)(C)C)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=C(C=C2)NC(N[C@H]2CN(CC2)C(=O)OC(C)(C)C)=O)F)C=C1 | C37H50F7N5O5Si
